US06222062B1
According to the procedure of Liebigs Ann. Chem. (1980), 9, 1392, 2-(4-hydroxy-benzyl)-3-oxo-butyric acid ethyl ester was prepared from 2-acetyl-3-(4-hydroxy-phenyl)-acrylic acid ethyl ester, Raney-nickel, hydrogen.

reactant | 2-acetyl-3-(4-hydroxy-phenyl)-acrylic acid ethyl ester | C(C)OC(C(=CC1=CC=C(C=C1)O)C(C)=O)=O | C13H14O4
reactant | hydrogen | [H][H] | H2
catalyst | Raney-nickel | [Ni] | Ni
product | 2-(4-hydroxy-benzyl)-3-oxo-butyric acid ethyl ester | C(C)OC(C(C(C)=O)CC1=CC=C(C=C1)O)=O | C13H16O4
